US06410585B1
5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[2-(3-hydroxy-3-phenylpropanoyl)hydrazino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (100 mg, 0.18 mmol) and 3-phenylhydracrylic acid hydrazide (39 mg, 0.22 mmol) according to Method C with HPLC purification to give the title compound (58 mg) as a diasteromeric mixture. 1H-NMR (400 MHz, CD3OD) d 7.77 (1H), 5.11 (dd, J=4.6 Hz, J=8.6 Hz, 1H), 4.78 (2H), 4.70 (m, 1H), 4.24 (dd, J=5.0 Hz, J=9.3 Hz, 1H), 1.34 (s, 9H); IR (KBr) 3274, 1681, 1652, 1608 cm−1; HRMS m/z 692.2670 (calc. of monoisotopic mass for C35H40N4O11 gives 692.2694).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 3-phenylhydracrylic acid hydrazide | 0.22 mmol, 39 mg | C1(=CC=CC=C1)C(CC(=O)NN)O | C9H12N2O2
product | 5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[2-(3-hydroxy-3-phenylpropanoyl)hydrazino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid | 58 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NNC(CC(C1=CC=CC=C1)O)=O)CC1=CC=CC=C1 | C35H40N4O11
